US04093812
Add 10 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile to a mixture of 20 ml of concentrated sulfuric acid and 20 ml of ethanol. Heat the resulting reaction mixture for 1.5 hours in a water bath at 90° to 100° C. Pour the solution onto ice and water to obtain a 93% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide [m.p. 236° to 238° C (from dimethylformamide/methanol)].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile | 10 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C#N)C1=CC=CC=C1 | C14H8N4O3
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide | 93% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=CC=CC=C1 | C14H10N4O4
